US07754737B2
A solution of 1-((1-tosylaziridin-2-yl)methyl)cyclohexanol (270 mg, 0.87 mmol) and methylamine in MeOH was stirred at rt for 4 h and concentrated to give 1-(3-(methylamino)-2-(tosylamino)propyl)cyclohexanol. The crude product was used in the next step without purification. MS m/z 341 (M+H+).

reactant | 1-((1-tosylaziridin-2-yl)methyl)cyclohexanol | 0.87 mmol, 270 mg | S(=O)(=O)(C1=CC=C(C)C=C1)N1C(C1)CC1(CCCCC1)O | C16H23NO3S
reactant | methylamine | CN | CH5N
solvent | MeOH | CO | CH4O
product | 1-(3-(methylamino)-2-(tosylamino)propyl)cyclohexanol | CNCC(CC1(CCCCC1)O)NS(=O)(=O)C1=CC=C(C)C=C1 | C17H28N2O3S
